2195-03-13 12:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Successfully extubated w/o incident
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Voriconazole - [**2195-3-13**] 02:13 AM
   Acyclovir - [**2195-3-13**] 06:41 AM
   Vancomycin - [**2195-3-13**] 08:00 AM
   Meropenem - [**2195-3-13**] 08:49 AM
   Metronidazole - [**2195-3-13**] 10:15 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2195-3-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-3-13**] 12:30 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 36.9
C (98.4
   HR: 85 (68 - 92) bpm
   BP: 130/71(84) {94/60(43) - 160/98(113)} mmHg
   RR: 26 (14 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  1,093 mL
                                                                  1,535 mL
   PO:
           TF:
   IVF:
                                                                    439 mL
                                                                  1,160 mL
   Blood products:
                                                                    654 mL
                                                                    375 mL
   Total out:
                                                                    200 mL
                                                                      0 mL
   Urine:
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    893 mL
                                                                  1,535 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Set): 370 (370 - 450) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///22/
   Ve: 7.6 L/min
   Physical Examination
   Gen: A/O, conversant, pleasant
   HEENT: Packing in R nare
   Heart: RRR, No MRG
   Lungs: Decreased BS in bases bilaterally
   Abd: Tympanitic, BS hyperactive, moderately tender diffusely, no
   guarding, no rebound
   Ext: No edema, 2+ DP pulses
   Labs / Radiology
   70 K/uL
   9.6 g/dL
   93 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.1 mEq/L
   7 mg/dL
   114 mEq/L
   144 mEq/L
   26.4 %
   0.3 K/uL
        [image002.jpg]
                             [**2195-3-12**]  06:24 PM
                             [**2195-3-12**]  07:54 PM
                             [**2195-3-12**]  09:07 PM
                             [**2195-3-13**]  04:03 AM
   WBC
   0.2
   0.3
   Hct
   23.9
   22.2
   24.5
   26.4
   Plt
   39
   80
   70
   Cr
   0.8
   0.7
   Glucose
   109
   93
   Other labs: PT / PTT / INR:15.2/28.5/1.3, ALT / AST:[**11-11**], Alk Phos / T
   Bili:106/1.1, Differential-Neuts:0.0 %, Band:0.0 %, Lymph:92.0 %,
   Mono:0.0 %, Eos:0.0 %, Albumin:3.0 g/dL, LDH:168 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   55 yo F w/ CML, EG junction tear and neutrapenic FUO
   #. UGIB: No further melena or hematemesis.
   - Q12 Hct
   - Tx platelets to >50
   - Tx Hct<25
   - aggressive antiemetics
   - [**Hospital1 7**] PPI
   .
   #. ? Fungal sinusitis on CT: ENT not impressed, path pending from
   sample
   - f/u biopsy for fungal invasion
   - f/u biopsy cultures
   - continue voriconazole for now
   - f/u ID recommendations
   - Trend fever curve
   - f/u ENT recommendations
   .
   #. GNR bacteremia: Has been difficult to identify, organism sent to
   [**Hospital1 **] lab. Line associated.
   - continue meropenem
   - f/u culture results
   - culture if spikes
   .
   #. Diarrhea: Stool studies, including c.diff have been negative to
   date. Could represent mucositis but sounds like it started pre-chemo
   - Loperamide PRN
   .
   #. FUO: Continues low grade fevers, could represent PNA given ? new
   infiltrate on CXR
   - Repeat CXR
   - continue Abx/antivirals/antifungal coverage for now
   - follow up ID recs
   .
   .
   #. FEN
 NPO, consider advance diet if next Hct stable.
   .
   #. Access - PIV
   .
   #. PPx -
   PPI [**Hospital1 7**]
   -DVT ppx with pneumoboots
   -Bowel regimen
   -Pain management with morphine PCA , switch to PRN morphine
   .
   #. Code - Assumed full code
   .
   #. Dispo - likely floor today if Hct stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2195-3-12**] 04:25 PM
   22 Gauge - [**2195-3-12**] 04:27 PM
   18 Gauge - [**2195-3-12**] 07:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2195-03-14 06:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   55 yo F w/ CML, EG junction tear and neutrapenic FUO
   24 Hour Events:
   -HCT stable
   -got bone marrow biopsy
   -CXR stable
   -Oncology recs antibiotics x5 days
   -ID recs no change in management
   -called out to BMT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2195-3-13**] 07:48 PM
   Meropenem - [**2195-3-13**] 11:06 PM
   Metronidazole - [**2195-3-14**] 01:23 AM
   Voriconazole - [**2195-3-14**] 01:23 AM
   Acyclovir - [**2195-3-14**] 05:18 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2195-3-13**] 08:00 AM
   Morphine Sulfate - [**2195-3-14**] 03:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-3-14**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (99
   HR: 80 (74 - 89) bpm
   BP: 115/66(101) {102/65(76) - 135/88(104)} mmHg
   RR: 21 (10 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,593 mL
                                                                    499 mL
   PO:
             TF:
   IVF:
                                                                  2,218 mL
                                                                    499 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,593 mL
                                                                    499 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///22/
   Physical Examination
   Gen: A/O, conversant, pleasant
   HEENT: Packing in R nare
   Heart: RRR, No MRG
   Lungs: Decreased BS in bases bilaterally
   Abd: Tympanitic, BS hyperactive, moderately tender diffusely, no
   guarding, no rebound
   Ext: No edema, 2+ DP pulses
   Labs / Radiology
   47 K/uL
   10.2 g/dL
   87 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.2 mEq/L
   5 mg/dL
   109 mEq/L
   140 mEq/L
   27.8 %
   0.3 K/uL
        [image002.jpg]
                             [**2195-3-12**]  06:24 PM
                             [**2195-3-12**]  07:54 PM
                             [**2195-3-12**]  09:07 PM
                             [**2195-3-13**]  04:03 AM
                             [**2195-3-13**]  12:11 PM
                             [**2195-3-14**]  01:24 AM
                             [**2195-3-14**]  03:16 AM
   WBC
   0.2
   0.3
   0.3
   Hct
   23.9
   22.2
   24.5
   26.4
   26.1
   26.8
   27.8
   Plt
   39
   80
   70
   47
   Cr
   0.8
   0.7
   0.8
   Glucose
   109
   93
   87
   Other labs: PT / PTT / INR:15.0/28.5/1.3, ALT / AST:[**11-11**], Alk Phos / T
   Bili:106/1.1, Differential-Neuts:0.0 %, Band:0.0 %, Lymph:92.0 %,
   Mono:0.0 %, Eos:0.0 %, Albumin:3.0 g/dL, LDH:168 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   55 yo F w/ CML, EG junction tear and neutrapenic FUO.
   #. UGIB: Pt had [**Last Name (un) 7032**] [**Doctor Last Name **] tare on EGD.  She has had no further
   melena or hematemesis.
   - will check 3 pm HCT, transfuse if HCT <25
   - Tx platelets to >20 prn given that pt had [**Last Name (un) 7032**] [**Doctor Last Name **] tear which is
   unlikely to rebleed
   - aggressive antiemetics
   - [**Hospital1 7**] PPI
   - Advancing diet to clears given pt has not rebled
   .
   #. ? Fungal sinusitis on CT: Pt has ? fungal sinusitis on CT and is now
   s/p fungal biopsy with packing in her nose path pending from sample
   - f/u biopsy for fungal invasion
   - f/u biopsy cultures
   - continue voriconazole for now
   - f/u ID recommendations
   - Trend fever curve
   - f/u ENT recommendations
   .
   #. GNR bacteremia: Has been difficult to identify, organism sent to
   [**Hospital1 **] lab. Line associated.
   - continue meropenem
   - f/u culture results
   - culture if spikes
   .
   #. Diarrhea: Stool studies, including c.diff have been negative to
   date. Could represent mucositis but sounds like it started pre-chemo.
   Pt getting loperamid PRN for diarrhea.
   - Loperamide PRN
   .
   #. FUO: Continues low grade fevers, could represent PNA given
   - continue Abx/antivirals/antifungal coverage for now
   - follow up ID recs
   .
   #. FEN
   -advancing diet to clears
   -repleted K and mg, check 3pm lytes
   -changing meds to POs
   .
   #. Access - PIV
   .
   #. PPx -
   -PPI [**Hospital1 7**]
   -DVT ppx with pneumoboots
   -Bowel regimen held given recent diarrhea
   -Pain management with PRN morphine
   .
   #. Code - Assumed full code
   .
   #. Dispo
 call out to floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2195-3-12**] 04:25 PM
   22 Gauge - [**2195-3-12**] 04:27 PM
   18 Gauge - [**2195-3-12**] 07:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2195-03-14 10:36:00 Physician Attending Progress Note
Chief Complaint: gi bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 yr old woman with CML, s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Doctor Last Name **] tear, and FUO
   24 Hour Events:
   BM biopsy, hct stable, followed by Oncology, an empiric AB for FUO in
   context of nadir following chemoRX
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2195-3-14**] 01:23 AM
   Voriconazole - [**2195-3-14**] 01:23 AM
   Acyclovir - [**2195-3-14**] 05:18 AM
   Meropenem - [**2195-3-14**] 08:00 AM
   Vancomycin - [**2195-3-14**] 08:15 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2195-3-14**] 08:00 AM
   Morphine Sulfate - [**2195-3-14**] 09:00 AM
   Other medications:
   zofran, elanzopine, colace,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-3-14**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.1
   HR: 81 (74 - 96) bpm
   BP: 137/90(101) {107/65(76) - 137/90(104)} mmHg
   RR: 22 (10 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,593 mL
                                                                    914 mL
   PO:
             TF:
   IVF:
                                                                  2,218 mL
                                                                    914 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,593 mL
                                                                    914 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   10.2 g/dL
   47 K/uL
   87 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.2 mEq/L
   5 mg/dL
   109 mEq/L
   140 mEq/L
   27.8 %
   0.3 K/uL
        [image002.jpg]
                             [**2195-3-12**]  06:24 PM
                             [**2195-3-12**]  07:54 PM
                             [**2195-3-12**]  09:07 PM
                             [**2195-3-13**]  04:03 AM
                             [**2195-3-13**]  12:11 PM
                             [**2195-3-14**]  01:24 AM
                             [**2195-3-14**]  03:16 AM
   WBC
   0.2
   0.3
   0.3
   Hct
   23.9
   22.2
   24.5
   26.4
   26.1
   26.8
   27.8
   Plt
   39
   80
   70
   47
   Cr
   0.8
   0.7
   0.8
   Glucose
   109
   93
   87
   Other labs: PT / PTT / INR:15.0/28.5/1.3, ALT / AST:[**11-11**], Alk Phos / T
   Bili:106/1.1, Differential-Neuts:0.0 %, Band:0.0 %, Lymph:92.0 %,
   Mono:0.0 %, Eos:0.0 %, Albumin:3.0 g/dL, LDH:168 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   55 yo F w/ CML, EG junction tear and neutrapenic FUO
    #. UGIB: No further melena or hematemesis.
   - Hct daily
   - Tx platelets to >50 if procedures planned otherwise transfuse for
   <20K
   - Tx Hct<25
   - aggressive antiemetics
   - [**Hospital1 7**] PPI
   .
   #. ? Fungal sinusitis on CT: ENT not impressed, path pending from
   sample
   - f/u biopsy for fungal invasion
   - f/u biopsy cultures
   - continue voriconazole for now
   - f/u ID recommendations
   - Trend fever curve
   - f/u ENT recommendations
   .
   #. GNR bacteremia: Has been difficult to identify, organism sent to
   [**Hospital1 **] lab. Line associated.
   - continue meropenem
   - f/u culture results
   - culture if spikes
   #. Diarrhea: Stool studies, including c.diff have been negative to
   date. Could represent mucositis but sounds like it started pre-chemo
   - Loperamide PRN
   #. FUO: Continues low grade fevers, could represent PNA given ? new
   infiltrate on CXR
   - Repeat CXR
   - continue Abx/antivirals/antifungal coverage for now
   - follow up ID recs
   #. FEN
 NPO, consider advance diet if next Hct stable.
   #. Access - PIV
   -Pain management with morphine PCA , switch to PRN morphine
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2195-3-12**] 04:25 PM
   22 Gauge - [**2195-3-12**] 04:27 PM
   18 Gauge - [**2195-3-12**] 07:28 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes